Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ w/ advanced pancreatic ca, no longer undergoing tx, 
palliative, here after syncopal episode this AM. He states he 
was in bed, needed to urinate urgently, rushed to bathroom, and 
fell on to L side. He denies LOC but additional report of EMS 
that he had additional syncopal episode when they helped him 
stand. Does report getting lightheaded when getting up but says 
it typically goes away. Denies CP, SOB, headache, palpitations. 
Did have headstrike. Main complaint on arrival was L shoulder 
pain has prosthetic shoulder, and L knee pain. Denies visual 
changes.  
Pt has chronic ___ edema and adjust Lasix up to 60mg daily, 
lately taking at least 40mg. Denies any ab pain, vomiting, 
diarrhea, cough, fever/chills. Eats several small meals per day 
and has been drinking water, no dark urine.  
In ED: No spinal tenderness. Normal neuro exam. No abd 
tenderness. Small lac L eyebrow dermabond as pt declined 
sutures, tdap given  
L shoulder placed in sling for clavicle frx  
denied cspine tenderness, c-collar cleared.  
Noted to have K 1.9  
Received 1L NS, In ED pt was given 4g MgSO4, 80meq PO potassium 
and started on NS + 40meq at 250cc/hr. K improved to 2.8  
Initial VA  
___ 58 96/60 16 97% RA  
on arrival to floor pt reports L shoulder w/ some discomfort, 
does not want to take any pain meds. No longer on oxycontin or 
oxycodone as he felt the constipation was worse than his chronic 
groin pain which he gets only intermittently and improves when 
he lies down. He has been trying to minimize meds, now takes 
only glargine, lasix and magnesium but takes this inconsistently 
 
REVIEW OF SYSTEMS:  
GENERAL: No fever, chills, night sweats, denies weight loss  
HEENT: No mouth sores, odynophagia, sinus tenderness, 
rhinorrhea, or congestion.  
CARDS: No chest pain, chest pressure, exertional symptoms, or 
palpitations.  
PULM: No cough, shortness of breath, hemoptysis, or wheezing.  
GI: No nausea, vomiting, diarrhea, constipation or abdominal 
pain. No hematochezia, or melena.  
GU: No dysuria, hematuruia or frequency.  
MSK: No arthritis, arthralgias, myalgias, or bone pain.  
DERM: Denies rashes, itching, or skin breakdown.  
NEURO: No headache, visual changes, numbness, paresthesias, 
focal weakness, or neurologic symptoms.  
HEME: No bleeding or clotting  

 
Past Medical History:
Past Medical History:  
- Pancreatic adenocarcinoma s/p systemic chemotherapy and local  

radiation completed in ___  
- Prostatitis  
- Prostatic nodule  
- Amblyopia  
- Obesity  
- Type 2 DM c/b by nephropathy  
- Hyperlipidemia  
- Claudication of calf muscles  
- s/p ___  
- humerus fracture ___  
 

 
Social History:
___
Family History:
no history of early CAD or malignancy

 
Physical Exam:
PHYSICAL EXAM:  
General: NAD, some facial muscle wasting  
VITAL SIGNS: 97.3   98/62    68    18     100%RA
HEENT: MMM, no OP lesions, lac above L eyelid  
Neck: supple, no JVD  
CV: RR, NL S1S2 no S3S4 or MRG  
PULM: CTAB  
ABD: BS+, soft, NTND, lower midline hernia easily reducible  
EXT: warm well perfused, no edema, L arm in sling, not grossly 
dislocated, able to shrug shoulder  
SKIN: No rashes or skin breakdown  
NEURO: alert and oriented x 4, ___, EOMI, moves all ext, 
sensation intact to light touch  

 
Pertinent Results:
CT C-SPINE W/O CONTRASTStudy Date of ___ 12:38 ___
FINDINGS:
 
 
There is no acute fracture or malalignment in the cervical 
spine.  Mild
multilevel degenerative changes throughout the cervical spine 
are noted with
mild intervertebral disc space narrowing, annular disc 
calcification and
osteophyte formation without critical central canal or neural 
foraminal
narrowing. No prevertebral edema.  The aerodigestive tract 
appears patent.
 
Visualized lung apices are clear. The thyroid gland appears 
heterogeneous with
no discrete lesion visualized.  Left shoulder arthroplasty is 
noted on the
scout.
 
IMPRESSION:
 
 
1. No acute fracture or traumatic malalignment of the cervical 
spine.
2. Mild multilevel degenerative changes of the cervical spine.

CT HEAD W/O CONTRASTStudy Date of ___ 12:38 ___
FINDINGS: 
 
There is no intra-axial or extra-axial hemorrhage, edema, shift 
of normally
midline structures, or evidence of acute major vascular 
territorial
infarction.  Again seen are scattered punctate calcifications 
within the left
cerebral hemisphere, likely dystrophic, possibly related to 
prior infection or
trauma.  Prominent ventricles and sulci are consistent with 
age-related
involutional changes.  Periventricular and subcortical white 
matter
hypodensities are seen, likely sequelae of chronic small vessel 
ischemic
disease.
 
No fracture is seen.  Mild left frontal soft tissue swelling is 
noted.  Mild
mucosal thickening of the ethmoidal air cells and minimal 
bilateral maxillary
sinus mucosal thickening is noted. The remaining imaged 
paranasal sinuses are
clear. Mastoid air cells and middle ear cavities are well 
aerated.
 
IMPRESSION: 
 
No acute intracranial process.  Minimal left frontal soft tissue 
swelling.

GLENO-HUMERAL SHOULDER (W/ Y VIEW) LEFTStudy Date of ___ 
12:56 ___
FINDINGS: 
 
Patient is status post left shoulder arthroplasty. No hardware 
complications
are evident. Mildly displaced fracture of the distal left 
clavicle with
minimal superior displacement of the distal fracture fragment is 
noted.  There
is no widening of the acromioclavicular joint.  No dislocation 
is present. 
Mild degenerative spurring is noted involving the 
acromioclavicular joint.   
Visualized left lung demonstrates atelectatic changes.
 
IMPRESSION: 
 
Mildly displaced fracture of the distal left clavicle.  No 
acromioclavicular
dislocation or evidence of hardware complications.

___ 06:30AM BLOOD WBC-6.1 RBC-2.71* Hgb-7.5* Hct-22.6* 
MCV-83 MCH-27.7 MCHC-33.2 RDW-18.3* RDWSD-55.8* Plt ___
___ 12:03PM BLOOD Neuts-67.2 ___ Monos-10.5 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-2.36 AbsLymp-0.74* 
AbsMono-0.37 AbsEos-0.00* AbsBaso-0.01
___ 12:03PM BLOOD ___ PTT-31.3 ___
___ 06:30AM BLOOD Glucose-140* UreaN-10 Creat-0.5 Na-130* 
K-3.9 Cl-95* HCO3-31 AnGap-8
___ 12:03PM BLOOD ALT-16 AST-35 AlkPhos-712* TotBili-1.1
___ 04:38AM BLOOD Calcium-7.7* Phos-3.3# Mg-2.0
 
Brief Hospital Course:
Mr ___ is a ___ yr old male with locally advanced pancreatic
cancer no longer on therapy who is admitted after fall and
possible syncope at home, found to have severe hypoK.  
Syncopal episode/Presyncope - Unclear if pt truly had LOC. 
likely
related to orthostasis as he reports positional lightheadedness
as well as severely low K. No arrhythmia on arrival.  
- monitored on tele during hospitalization with no events
- pt declines diagnostic studies such as echo, CT to r/o PE
 
#Severe hypoK - K 1.9 on arrival. ___ poor PO intake and Lasix
use. improved with repletion. stopped lasix which should help. 
For now reports improved edema with TEDS, hopefully this will 
benefit and avoid need for lasix. will DC on 20meq daily 

___ edema - chronic, using compression stockings now to avoid 
lasix given hypokalemia

# orthostatic hypotension - improved since admission. midodrine
added ___. ___ eval: recommend rehab
 
#locally advanced ___ cancer s/p systemic
chemotherapy with FOLFIRINOX x 8 cycles and local radiation 
which
completed ___. at last onc visit in ___ pt chose to take
comfort focused approach, was struggling w/ PO weight loss but
decided he would not want treatment even if had recurrence thus
no further intervention pursued. He has gradually stopped taking
meds as per HPI above. Has home hospice, typically visits about
1x/week. Would like to return home after rehab, but unclear if 
he
will have enough support to stay there as his health 
deteriorates

#L clavicle mildly displaced frx - pt declines pain meds, sling
in place for at least few weeks  

#anemia: likely related to his disease process, was previously 
requiring periodic transfusions. slight drop at DC but no 
evidence of active bleed.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
2. Multivitamins 1 TAB PO DAILY 
3. magnesium chloride 64 mg oral BID 
4. Glargine 6 Units Bedtime

 
Discharge Medications:
1. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
2. Glargine 6 Units Bedtime
3. Midodrine 5 mg PO TID 
4. Senna 17.2 mg PO BID 
5. Docusate Sodium 100 mg PO BID 
6. magnesium chloride 64 mg oral BID 
7. Multivitamins 1 TAB PO DAILY 
8. Potassium Chloride 20 mEq PO DAILY 
Hold for K > 5 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
L clavicle fracture
hypokalemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after ___ fall. You hit 
your head and broke your left collarbone. This did not require 
surgery but you should wear a sling for the next month while the 
bone heals. We found that your potassium levels were very low, 
for which you received potassium supplementation. You will be 
discharged to rehab where you can try to regain some strength 
before you go home again. 

It was a pleasure taking care of you during your stay here. 
 
Followup Instructions:
___